US07399775B2
5-(4-Chlorophenylsulfonylmethyl)oxazole
Thionyl chloride (188 μl, 2.57 mmol) was added to a chloroform (10 ml) solution of oxazol-5-ylmethanol (85 mg, 0.858 mmol). The resulting mixture was stirred at 50° C. for 1.5 hours. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure. The residue thus obtained was dissolved in butanol (10 ml). To the resulting solution were added sodium 4-chlorobenzenesulfinate (170 mg, 0.858 mmol), potassium acetate (252 mg, 2.57 mmol) and tetrabutylammonium iodide (15 mg), followed by stirring at 70° C. for 3 days. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure. Ethyl acetate was added to the residue. The mixture was washed successively with water and brine and then, dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue was subjected to flash chromatography on a silica gel column, and the fraction obtained from the hexane:ethyl acetate (=1:1) fraction was concentrated under reduced pressure, whereby the title compound (81 mg, 37%) was obtained as a white solid.

reactant | Thionyl chloride | 2.57 mmol, 188 μl | S(=O)(Cl)Cl | Cl2OS
reactant | oxazol-5-ylmethanol | 0.858 mmol, 85 mg | O1C=NC=C1CO | C4H5NO2
reactant | sodium 4-chlorobenzenesulfinate | 0.858 mmol, 170 mg | ClC1=CC=C(C=C1)S(=O)[O-].[Na+]
reactant | potassium acetate | 2.57 mmol, 252 mg | C(C)(=O)[O-].[K+]
solvent | butanol | 10 ml | C(CCC)O | C4H10O
catalyst | tetrabutylammonium iodide | 15 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(4-Chlorophenylsulfonylmethyl)oxazole | ClC1=CC=C(C=C1)S(=O)(=O)CC1=CN=CO1 | C10H8ClNO3S
